US07592373B2
N-(4′-chlorobiphenyl-4-yl)-3-(4-{[methyl(tetrahydropyran-4-yl)amino]methyl}phenyl)propionamide
A reaction mixture of 60 mg (0.13 mmol) of (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-{[methyl-(tetrahydropyran-4-yl)amino]methyl}phenyl)acrylamide and 20 mg of Raney nickel in 10 mL of DMF is hydrogenated for 3 hours at 50 psi and ambient temperature. The catalyst is filtered off and the filtrate is evaporated to dryness. The purification is carried out by column chromatography on silica gel (eluant: dichloromethane/methanol/ammonia (20:1:0.1)). Yield: 22 mg (29% of theory); melting point: 167° C.-173° C.; C28H31ClN2O2 (M=463.01); calc.: molecular ion peak (M+H)+: 463/65 (Cl); found: molecular ion peak (M+H)+: 463/65 (Cl).

reactant | (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-{[methyl-(tetrahydropyran-4-yl)amino]methyl}phenyl)acrylamide | 0.13 mmol, 60 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CN(C1CCOCC1)C)=O | C28H29ClN2O2
catalyst | Raney nickel | 20 mg | [Ni] | Ni
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4′-chlorobiphenyl-4-yl)-3-(4-{[methyl(tetrahydropyran-4-yl)amino]methyl}phenyl)propionamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(CCC1=CC=C(C=C1)CN(C1CCOCC1)C)=O | C28H31ClN2O2
